US09169254B2
3-Chloro-propionyl (157 μL, 1.65 mmol) was added to a mixture of N-m-tolyl-hydroxylamine (235 mg, 1.69 mmol) and potassium carbonate (223 mg, 1.69 mmol) in N,N-dimethylformamide (1.7 mL) at −10° C. The mixture was stirred at room temperature for 2.5 hours, and water and ethyl acetate were then added. The organic layer and the aqueous layer were separated, and the aqueous layer was repeatedly extracted with ethyl acetate three times. The organic layers were combined, washed with water twice and saturated brine, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2-m-tolyl-isoxazolidin-3-one as a pale yellow solid (213 mg, 73%).

reactant | N-m-tolyl-hydroxylamine | 1.69 mmol, 235 mg | C1(=CC(=CC=C1)NO)C | C7H9NO
reactant | potassium carbonate | 1.69 mmol, 223 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
product | 2-m-tolyl-isoxazolidin-3-one | 213 mg, 73% | C1(=CC(=CC=C1)N1OCCC1=O)C | C10H11NO2
